US06184238B2
N-Chlorosuccinimide (504 mg) was dissolved in an ethanol (9 ml) and water (1 ml) mixture of the 1-[4-(tert-butyldiphenylsilyloxy)butyl]-2-(3-pyridyl)indole (1.99 g) obtained in the same way as in Example 2(1), and the mixture was reacted at room temperature for 4.5 hours. After the reaction, water was added and the mixture was extracted with ethyl acetate, and the organic phase was washed with brine, then dried over magnesium sulfate, then the solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography to obtain 1-[4-(tert-butyldiphenylsilyloxy)butyl]-3-chloro-2-(3-pyridyl)indole (1.24 g).

reactant | N-Chlorosuccinimide | 504 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-[4-(tert-butyldiphenylsilyloxy)butyl]-2-(3-pyridyl)indole | 1.99 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCN1C(=CC2=CC=CC=C12)C=1C=NC=CC1 | C33H36N2OSi
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 1-[4-(tert-butyldiphenylsilyloxy)butyl]-3-chloro-2-(3-pyridyl)indole | 1.24 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCN1C(=C(C2=CC=CC=C12)Cl)C=1C=NC=CC1 | C33H35ClN2OSi
